US06884868B1
To a suspension of 4-[4-[4-(4-phenylpiperidin-1-yl)phenyl]piperazin-1-yl]benzoic acid dihydrochloride salt (0.62 g) and 1-hydroxybenzotriazole (0.2 g) in dichloromethane (12 ml) was added 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide (0.22 g) and stirred for 22 hours at ambient temperature. The reaction mixture was added to a mixture of water and dichloromethane. The organic layer was taken and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 4-[4-[4-(4-phenylpiperidin-1-yl)phenyl]piperazin-1-yl]benzoic acid benzotriazol-1-yl ester (0.41 g).

reactant | 4-[4-[4-(4-phenylpiperidin-1-yl)phenyl]piperazin-1-yl]benzoic acid dihydrochloride salt | 0.62 g | Cl.Cl.C1(=CC=CC=C1)C1CCN(CC1)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1
reactant | 1-hydroxybenzotriazole | 0.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide | 0.22 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | water | O | H2O
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | 4-[4-[4-(4-phenylpiperidin-1-yl)phenyl]piperazin-1-yl]benzoic acid benzotriazol-1-yl ester | 0.41 g | N1(N=NC2=C1C=CC=C2)OC(C2=CC=C(C=C2)N2CCN(CC2)C2=CC=C(C=C2)N2CCC(CC2)C2=CC=CC=C2)=O | C34H34N6O2
